US06118005
Toluene (60 ml) was heated to 100° C. Thereto was added dropwise a solution of 39.6 g of 2-chloro-1,3-butadienyl acetate and 30.0 g of benzenesulfonyl cyanide (purity:82%) in 60 ml of toluene over 30 minutes. The reaction mixture was stirred at 100° C. for 7 hours and then concentrated under reduced pressure. The crystals obtained were washed with 150 ml of toluene which was cooled to 0° C. and dried under reduced pressure using a vacuum pump to give 31.9 g of 2-benzenesulfonyl-5-chloropyridine (yield 86%).

reactant | 2-chloro-1,3-butadienyl acetate | 39.6 g | C(C)(=O)OC=C(C=C)Cl | C6H7ClO2
reactant | benzenesulfonyl cyanide | 30.0 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzenesulfonyl-5-chloropyridine | 31.9 g, yield 86% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)Cl | C11H8ClNO2S
